US05618812
A solution of 2-chloro-4-trifluoromethylpyridine (11.6 g) in glacial acetic acid (70 ml), containing 10% palladium on carbon (2.4 g, 21% (w/w)) was hydrogenated at 40 psi for 4 h. Concentrated hydrochloric acid (20 ml) was added and hydrogenation continued for a further 1 h. The catalyst was filtered off and the filtrate evaporated in vacuo to afford 4-trifluoromethylpyridinium hydrochloride.

reactant | 2-chloro-4-trifluoromethylpyridine | 11.6 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 2.4 g | [Pd] | Pd
product | 4-trifluoromethylpyridinium hydrochloride | Cl.FC(C1=CC=[NH+]C=C1)(F)F | InChI=1S/C6H4F3N.ClH/c7-6(8,9)5-1-3-10-4-2-5;/h1-4H;1H/p+1
